US07435837B2
Treatment of (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methanol (4.08 g, 18.7 mmol) with p-toluenesulfonyl chloride (3.92 g, 21.9 mmol) in anhydrous pyridine (76 mL) generally according to the procedure described for Intermediate 10 gave (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a tan oil. Treatment of the tosylate with sodium azide (4.39 g, 67.57 mmol) generally according to the procedure described for Intermediate 98 afforded 4.1 g of (±)-2-(azidomethyl)-7-cyclopentyl-2,3-dihydro-1-benzofuran as a yellow oil. Treatment of the azide with palladium on carbon (0.41 g, 10 wt. %) generally according to the procedure described for Example 1 afforded 2.5 g (58%) of (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methylamine as a white solid, hydrochloride salt. mp 174° C.; Anal. calcd. for C14H900N2HCl: C, 66.26; H, 7.94; N, 5.52. Found C, 66.13; H, 7.71; N, 5.5.

reactant | (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 18.7 mmol, 4.08 g | C1(CCCC1)C1=CC=CC=2CC(OC21)CO | C14H18O2
reactant | p-toluenesulfonyl chloride | 21.9 mmol, 3.92 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 76 mL | N1=CC=CC=C1 | C5H5N
product | (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2CCCC2 | C21H24O4S
